US07915281B2
Under a nitrogen atmosphere, acetonitrile (1.5 L) was added to a Parr vessel containing 5% platinum on carbon (1.5 g), which had been wet with a small amount of acetonitrile, and 2-chloro-N-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-3-nitroquinolin-4-amine (23.20 g, 56.20 mmol). The vessel was sealed, purged three times with hydrogen, and placed under hydrogen pressure (30 psi, 2.1×105 Pa) for 18 hours at room temperature. The catalyst was removed by filtration, and the majority of the filtrate was concentrated under reduced pressure. A solid was present in the remaining filtrate and was isolated by filtration to provide 11.3 g of 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine as a yellow solid.

reactant | 2-chloro-N-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-3-nitroquinolin-4-amine | 56.20 mmol, 23.20 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C20H14ClFN4O3
catalyst | platinum on carbon | 1.5 g | [Pt] | Pt
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 1.5 L | C(C)#N | C2H3N
product | 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine | 11.3 g | ClC1=NC2=CC=CC=C2C(=C1N)NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C20H16ClFN4O
